US04338449
2-Methylamino-5,5-dimethyl-4-pivaloyl-4,5-dihydro-1,3,4thiadiazole
A 52.5 g. portion of 4-methylthiosemicarbazide was suspended and partially dissolved in 250 ml. of acetone, and 39.5 g. of pyridine was added. The mixture was stirred for 15 minutes at ambient temperature, and then 60.5 g. of pivaloyl chloride was added slowly while the temperature of the reaction mixture was held at 20°-25°. The mixture was stirred at ambient temperature for 3 hours after the addition, and then 200 ml. of water was added. The reaction mixture was filtered, and the filter cake was washed with 100 ml. of nitromethane and vacuum dried at 50° to obtain 91.4 g. of the desired intermediate product, m.p. 162°-164°.

reactant | 4-methylthiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | acetone | CC(=O)C | C3H6O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | O | H2O
product | 2-Methylamino-5,5-dimethyl-4-pivaloyl-4,5-dihydro-1,3,4thiadiazole | CNC=1SC(N(N1)C(C(C)(C)C)=O)(C)C | C10H19N3OS
